US08227485B2
2-{4-amino-3-[(3-piperidin-1-ylpropyl)amino]phenyl}-N,N-diisobutyl-2-methylpropanamide
N,N-diisobutyl-2-methyl-2-{4-nitro-3-[(3-piperidin-1-ylpropyl)amino]phenyl}propanamide (1.6 g) in solution in a mixture of ethyl acetate/ethanol 2:1 (100 ml) and 10% palladium on carbon (160 mg) are introduced into an autoclave. After stirring for 4 hours under a hydrogen atmosphere (3 bars) at a temperature of approximately 20° C., the catalyst is eliminated by filtration on celite and the filtrate is concentrated under reduced pressure at 40° C. in order to produce the expected compound in the form of an oil (1.4 g, 94% yield).

reactant | N,N-diisobutyl-2-methyl-2-{4-nitro-3-[(3-piperidin-1-ylpropyl)amino]phenyl}propanamide | 1.6 g | C(C(C)C)N(C(C(C)(C1=CC(=C(C=C1)[N+](=O)[O-])NCCCN1CCCCC1)C)=O)CC(C)C | C26H44N4O3
solvent | ethyl acetate ethanol | 100 ml | C(C)(=O)OCC.C(C)O
catalyst | palladium on carbon | 160 mg | [Pd] | Pd
product | 2-{4-amino-3-[(3-piperidin-1-ylpropyl)amino]phenyl}-N,N-diisobutyl-2-methylpropanamide | NC1=C(C=C(C=C1)C(C(=O)N(CC(C)C)CC(C)C)(C)C)NCCCN1CCCCC1 | C26H46N4O
